US08017611B2
5-bromo-3-oxazolo[5,4-b]pyridin-2-yl-pyridin-2-amine (1 g), potassium acetate (1.045 g), Pd(dppf)Cl2 (0.139 g) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.960 g) were suspended in dioxane (15 ml) and degassed several times with argon. The resulting suspension was sealed and stirred at 80° C. overnight. The reaction mixture was diluted with chloroform (15 ml), filtered and concentrated. The residue was taken up into ethyl acetate (10 ml), collected by filtration, washed with ethyl acetate (10 ml) to give 3-oxazolo[5,4-b]pyridin-2-yl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (782 mg). NMR Spectrum: (CDCl3) 1.37 (s, 12H), 5.98 (bs, 2H), 7.35 (dd, 1H), 8.01 (dd, 1H), 8.35 (dd, 1H), 8.60 (d, 1H), 8.81 (d, 1H); Mass spectrum: M+H+ 339

reactant | 5-bromo-3-oxazolo[5,4-b]pyridin-2-yl-pyridin-2-amine | 1 g | BrC=1C=C(C(=NC1)N)C=1OC2=NC=CC=C2N1 | C11H7BrN4O
reactant | potassium acetate | 1.045 g | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.960 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.139 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-oxazolo[5,4-b]pyridin-2-yl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 782 mg | N1=C(OC2=NC=CC=C21)C=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)N | C17H19BN4O3
